US07723330B2
Step A: Preparation of 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1-methyl-1H-pyrazolo[3,4-b]pyridine:
To a stirred solution of 4-(2-fluoro-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine (12.0 g, 43.8 mmol, prepared using the procedure described in Example 3, Step A) in DMF (100 mL) was added freshly ground (mortar/pestle) potassium hydroxide (7.37 g, 131 mmol) followed immediately by iodine (16.7 g, 65.6 mmol) under N2(g) at 25° C. The dark reaction was heated to 50° C. for 3 hours. One third of the reaction mixture volume was poured into a stirred solution of iodomethane (3.09 g, 21.7 mmol) in DMF (25 mL) at 0° C. under N2. The reaction was allowed to warm to 25° C. and stirred for 18 hours under N2. The mixture was diluted with CH2Cl2 (50 mL) and washed with a co-solvent of saturated aqueous Na2S2O3 (10 mL) and water (40 mL). The aqueous phase was extracted with 10% MeOH in CH2Cl2 (30 mL). The combined organic phases were washed with the Na2S2O3/water mixture followed by water, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting residue was triturated with diethyl ether, and the solid filtered to afford the desired product (4.01 g, 62%).

reactant | 4-(2-fluoro-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | FC1=C(OC2=C3C(=NC=C2)NN=C3)C=CC(=C1)[N+](=O)[O-] | C12H7FN4O3
reactant | potassium hydroxide | 131 mmol, 7.37 g | [OH-].[K+]
reactant | iodine | 65.6 mmol, 16.7 g | II | I2
reactant | iodomethane | 21.7 mmol, 3.09 g | IC | CH3I
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-fluoro-4-nitrophenoxy)-3-iodo-1-methyl-1H-pyrazolo[3,4-b]pyridine | 4.01 g, 62% | FC1=C(OC2=C3C(=NC=C2)N(N=C3I)C)C=CC(=C1)[N+](=O)[O-] | C13H8FIN4O3
